US08669271B2
4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 5-chloro-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine and isopropyl chloroformate following a procedure analogous to that described in Example 4. LC (method 7): tR=1.37 min; Mass spectrum (ESI+): m/z=325 [M+H]+.

reactant | 5-chloro-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | ClC=1C=C2C(=CN1)OC(C2)C2CCNCC2 | C12H15ClN2O
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
product | 4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C16H21ClN2O3
